US03992434
Three moles 3,5-di-t-butyl-4-hydroxybenzoyl chloride and 1 mole diethanolamine in benzene are stirred at room temperature for 16 hours. The reaction mixture is poured into water, the benzene layer is separated and the benzene evaporated under reduced pressure to provide N,N-bis(3',5'-di-tert.-butyl-4'-hydroxybenzoyloxyethyl)-3,5-di-tert.butyl-4-hydroxybenzamide as a white solid.

reactant | 3,5-di-t-butyl-4-hydroxybenzoyl chloride | Three moles | C(C)(C)(C)C=1C=C(C(=O)Cl)C=C(C1O)C(C)(C)C | C15H21ClO2
reactant | diethanolamine | 1 mole | N(CCO)CCO | C4H11NO2
reactant | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N,N-bis(3',5'-di-tert.-butyl-4'-hydroxybenzoyloxyethyl)-3,5-di-tert.butyl-4-hydroxybenzamide | C(C)(C)(C)C=1C=C(C(=O)OCCN(C(C2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)=O)CCOC(C2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)=O)C=C(C1O)C(C)(C)C | C49H71NO8
